US04460596
2 g of 2-[2-(4-fluorophenyl)-5-(3-thienyl)-4-oxazolyl]acetic acid, 0.5 g of potassium hydroxide, 4.2 g of oxalyl chloride and 20 ml of n-butanol are treated in the same manner as described in Example 17. One g of n-butyl 2-[2-(4-fluorophenyl)-5-(3-thienyl)-4-oxazolyl]acetate is thereby obtained. Yield: 42.2%

reactant | 2-[2-(4-fluorophenyl)-5-(3-thienyl)-4-oxazolyl]acetic acid | 2 g | FC1=CC=C(C=C1)C=1OC(=C(N1)CC(=O)O)C1=CSC=C1 | C15H10FNO3S
reactant | potassium hydroxide | 0.5 g | [OH-].[K+]
reactant | oxalyl chloride | 4.2 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | n-butanol | 20 ml | C(CCC)O | C4H10O
product | n-butyl 2-[2-(4-fluorophenyl)-5-(3-thienyl)-4-oxazolyl]acetate | Yield: 42.2% | FC1=CC=C(C=C1)C=1OC(=C(N1)CC(=O)OCCCC)C1=CSC=C1 | C19H18FNO3S
